US08729095B2
To an ethanol solution (80 ml) of benzyl 2′-{[(1R)-3-tert-butoxy-1-methyl-3-oxopropyl]oxy}-3-fluorobiphenyl-4-carboxylate (12.8 g) was added 10% palladium carbon (2.54 g), followed by stirring at room temperature for 7 hours under a hydrogen atmosphere. The reaction solution was filtered through Celite, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to afford 2′-{[(1R)-3-tert-butoxy-1-methyl-3-oxopropyl]oxy}-3-fluorobiphenyl-4-carboxylic acid (9.87 g).

reactant | benzyl 2′-{[(1R)-3-tert-butoxy-1-methyl-3-oxopropyl]oxy}-3-fluorobiphenyl-4-carboxylate | 12.8 g | C(C)(C)(C)OC(C[C@@H](C)OC1=C(C=CC=C1)C1=CC(=C(C=C1)C(=O)OCC1=CC=CC=C1)F)=O | C28H29FO5
catalyst | palladium carbon | 2.54 g | [C].[Pd]
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2′-{[(1R)-3-tert-butoxy-1-methyl-3-oxopropyl]oxy}-3-fluorobiphenyl-4-carboxylic acid | 9.87 g | C(C)(C)(C)OC(C[C@@H](C)OC1=C(C=CC=C1)C1=CC(=C(C=C1)C(=O)O)F)=O | C21H23FO5
